US09284331B2
4-(2-((tert-butyldiphenylsilyl)oxy)ethyl)-1H-imidazole
A solution of 2-(1H-imidazol-4-yl)ethanol (1.24 g, 11.1 mmol) in DMF (10 mL) was treated with imidazole (1.51 g, 22.1 mmol) and TBDPSCl (3.12 mL, 12.2 mmol) and the mixture was stirred at RT for 2 h. The mixture was then poured onto H2O and extracted with AcOEt. The combined org. layers were dried over Na2SO4, filtered and concentrated in vacuo. Purification by flash chromatography (SiO2, AcOEt/heptane 0:100 to 100:0) gave the title compound (1.6 g). UPLC-MS: MS 351.2 (M+H+); UPLC rt 1.02 min.

reactant | 2-(1H-imidazol-4-yl)ethanol | 11.1 mmol, 1.24 g | N1C=NC(=C1)CCO | C5H8N2O
reactant | imidazole | 22.1 mmol, 1.51 g | N1C=NC=C1 | C3H4N2
reactant | TBDPSCl | 12.2 mmol, 3.12 mL | CC(C)(C)[Si](C1=CC=CC=C1)(C2=CC=CC=C2)Cl | C16H19ClSi
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 4-(2-((tert-butyldiphenylsilyl)oxy)ethyl)-1H-imidazole | 1.6 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OCCC=1N=CNC1 | C21H26N2OSi
